US06982274B2
(3-Bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanol
In an atmosphere of nitrogen gas, 2.38 ml of a 2.66 M solution of n-butyllithium in hexane was added to a solution of 0.64 g of N,N-diisopropylamine in 9 ml tetrahydrofuran at −78° C. After stirring at the same temperature for 1 hour, 1.18 g of 1-bromo-4-fluoro-2-methoxy-benzene obtained in Production Example II-1-a was added dropwise. After stirring at the same temperature for 1 hour and 20 minutes, a solution of 0.99 g of 2-naphthoaldehyde in 4 ml tetrahydrofuran was added dropwise. After stirring at the same temperature for 1 hour and 20 minutes, water was added under ice-cooling and the mixture was extracted with diethyl ether for two times. The extract was sequentially washing with water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography, to give 1.72 g of the title compound as a pale yellow oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diisopropylamine | 0.64 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-bromo-4-fluoro-2-methoxy-benzene | 1.18 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | 2-naphthoaldehyde | 0.99 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (3-Bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanol | 1.72 g | BrC=1C(=C(C(=CC1)F)C(O)C1=CC2=CC=CC=C2C=C1)OC | C18H14BrFO2
